US04861769
To a solution of ethyl 2-vinyloxyimino-3,3-ethylenedioxybutyrate (syn isomer)(15 g) and benzyl-triethylammonium chloride (164 mg) in a mixture of methylene chloride (13 ml), bromoform (11.4 ml) and ethanol (0.65 ml) was added 50% aqueous solution of sodium hydroxide (105 ml) under ice-cooling. The mixture was stirred for 1 hour at the same temperature and allowed to be stirred at ambient temperature overnight. The mixture was extracted with diethyl ether. The extract was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was subjected to column chromatography on silica gel using a mixture of chloroform and ethyl acetate (4:1 V/V) as an eluent to give ethyl 2-(2,2-dibromocyclopropyloxyimino)-3,3-ethylenedioxybutyrate (syn isomer)(15.4 g) as an oil.

reactant | ethyl 2-vinyloxyimino-3,3-ethylenedioxybutyrate | 15 g | C(=C)ON=C(C(=O)OCC)C1(C)OCCO1 | C10H15NO5
reactant | bromoform | 11.4 ml | C(Br)(Br)Br | CHBr3
reactant | ethanol | 0.65 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 105 ml | [OH-].[Na+]
catalyst | benzyl-triethylammonium chloride | 164 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | methylene chloride | 13 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-(2,2-dibromocyclopropyloxyimino)-3,3-ethylenedioxybutyrate | 15.4 g | BrC1(C(C1)ON=C(C(=O)OCC)C1(C)OCCO1)Br | C11H15Br2NO5
